US04166120
A solution of 5.3 g of 2,3-dihydro-1'-benzylspiro[benzofuran-2,4'-piperidine], free base of B, in 250 ml of isopropyl alcohol is hydrogenated with a Paar shaker, 50 psig, 65°-70° C. and 1 g of a 10% palladium/carbon catalyst until the uptake of hydrogen is completed. Thereafter, the solution is successively permitted to cool to ambient temperature, filtered and concentrated to dryness, leaving a white solid. The solid is dissolved in a benzene-ether mixture, the solution filtered through celite and then concentrated again providing a white solid, which upon trituration with ether, provides the product, 2,3-dihydrospiro[benzofuran-2,4'-piperidine], mp 56°-58.5° C.

reactant | 2,3-dihydro-1'-benzylspiro[benzofuran-2,4'-piperidine] | 5.3 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C19H21NO
reactant | hydrogen | [H][H] | H2
solvent | isopropyl alcohol | 250 ml | C(C)(C)O | C3H8O
catalyst | palladium/carbon | [Pd] | Pd
product | 2,3-dihydrospiro[benzofuran-2,4'-piperidine] | N1CCC2(CC1)OC1=C(C2)C=CC=C1 | C12H15NO
